### PR TITLE
`ResImag` closed under addition and multiplication

### LINKED ISSUE #198: `ResToImagAxis.Real/Pos/EventuallyPos` are closed under the addition and muitplication
Will be useful for issue #184. After #196 merged.

### PR DESCRIPTION
**Pull request by seewoo5**
Close #198

### CODE REVIEW

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 1]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+
+/--
+Realenss, positivity and essential positivity are closed under the addition and multiplication.
+-/
+theorem ResToImagAxis.Real.add {F G : ℍ → ℂ} (hF : ResToImagAxis.Real F)
+    (hG : ResToImagAxis.Real G) : ResToImagAxis.Real (F + G) := by
+  intro t ht
+  have hFreal := hF t ht
+  have hGreal := hG t ht
+  simp [Function.resToImagAxis, ResToImagAxis, ht] at hFreal hGreal
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  simp only [Function.resToImagAxis, ResToImagAxis, ht, ↓reduceDIte] at hFreal hGreal
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 2]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+  simp [Function.resToImagAxis, ResToImagAxis, ht, add_im, hFreal, hGreal]
+
+theorem ResToImagAxis.Real.mul {F G : ℍ → ℂ} (hF : ResToImagAxis.Real F)
+    (hG : ResToImagAxis.Real G) : ResToImagAxis.Real (F * G) := by
+  intro t ht
+  have hFreal := hF t ht
+  have hGreal := hG t ht
+  simp [Function.resToImagAxis, ResToImagAxis, ht] at hFreal hGreal
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  simp only [Function.resToImagAxis, ResToImagAxis, ht, ↓reduceDIte] at hFreal hGreal
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 3]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+  simp [Function.resToImagAxis, ResToImagAxis, ht, mul_im, hFreal, hGreal]
+
+theorem ResToImagAxis.Real.hmul {F : ℍ → ℂ} {c : ℝ} (hF : ResToImagAxis.Real F) :
+    ResToImagAxis.Real (c • F) := by
+  intro t ht
+  have hFreal := hF t ht
+  simp [Function.resToImagAxis, ResToImagAxis, ht] at hFreal
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  simp only [Function.resToImagAxis, ResToImagAxis, ht, ↓reduceDIte] at hFreal
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 4]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+  simp [Function.resToImagAxis, ResToImagAxis, ht, hFreal]
+
+theorem ResToImagAxis.Pos.add {F G : ℍ → ℂ} (hF : ResToImagAxis.Pos F)
+    (hG : ResToImagAxis.Pos G) : ResToImagAxis.Pos (F + G) := by
+  rw [Pos]
+  refine ⟨Real.add hF.1 hG.1, ?_⟩
+  intro t ht
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  refine ⟨Real.add hF.1 hG.1, fun t ht ↦ ?_⟩
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 5]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+  have hFpos := hF.2 t ht
+  have hGpos := hG.2 t ht
+  simp [Function.resToImagAxis, ResToImagAxis, ht] at hFpos hGpos
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  simp only [Function.resToImagAxis, ResToImagAxis, ht, ↓reduceDIte] at hFpos hGpos
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 6]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+  simp [Function.resToImagAxis, ResToImagAxis, ht, add_re, add_pos hFpos hGpos]
+
+theorem ResToImagAxis.Pos.mul {F G : ℍ → ℂ} (hF : ResToImagAxis.Pos F)
+    (hG : ResToImagAxis.Pos G) : ResToImagAxis.Pos (F * G) := by
+  rw [Pos]
+  refine ⟨Real.mul hF.1 hG.1, ?_⟩
+  intro t ht
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  refine ⟨Real.mul hF.1 hG.1, fun t ht ↦ ?_⟩
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 7]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+  have hFreal := hF.1 t ht
+  have hGreal := hG.1 t ht
+  have hFpos := hF.2 t ht
+  have hGpos := hG.2 t ht
+  simp [Function.resToImagAxis, ResToImagAxis, ht] at hFreal hGreal
+  simp [Function.resToImagAxis, ResToImagAxis, ht] at hFpos hGpos
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  simp only [Function.resToImagAxis, ResToImagAxis, ht, ↓reduceDIte] at hFreal hGreal
  simp only [Function.resToImagAxis, ResToImagAxis, ht, ↓reduceDIte] at hFpos hGpos
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 8]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+  simp [Function.resToImagAxis, ResToImagAxis, ht, mul_re, hFreal, hGreal, mul_pos hFpos hGpos]
+
+theorem ResToImagAxis.Pos.hmul {F : ℍ → ℂ} {c : ℝ} (hF : ResToImagAxis.Pos F)
+    (hc : 0 < c) : ResToImagAxis.Pos (fun z => c * F z) := by
+  rw [Pos]
+  refine ⟨Real.hmul hF.1, ?_⟩
+  intro t ht
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  refine ⟨Real.hmul hF.1, fun t ht ↦ ?_⟩
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 9]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+  have hFreal := hF.1 t ht
+  have hFpos := hF.2 t ht
+  simp [Function.resToImagAxis, ResToImagAxis, ht] at hFreal
+  simp [Function.resToImagAxis, ResToImagAxis, ht] at hFpos
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  simp only [Function.resToImagAxis, ResToImagAxis, ht, ↓reduceDIte] at hFreal
  simp only [Function.resToImagAxis, ResToImagAxis, ht, ↓reduceDIte] at hFpos
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 10]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+/--
+Realenss, positivity and essential positivity are closed under the addition and multiplication.
+-/
+theorem ResToImagAxis.Real.add {F G : ℍ → ℂ} (hF : ResToImagAxis.Real F)
+    (hG : ResToImagAxis.Real G) : ResToImagAxis.Real (F + G) := by
+  intro t ht
+  have hFreal := hF t ht
+  have hGreal := hG t ht
+  simp [Function.resToImagAxis, ResToImagAxis, ht] at hFreal hGreal
+  simp [Function.resToImagAxis, ResToImagAxis, ht, add_im, hFreal, hGreal]
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  simp [ResToImagAxis, ht, hFreal, hGreal]
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 11]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+
+theorem ResToImagAxis.Real.mul {F G : ℍ → ℂ} (hF : ResToImagAxis.Real F)
+    (hG : ResToImagAxis.Real G) : ResToImagAxis.Real (F * G) := by
+  intro t ht
+  have hFreal := hF t ht
+  have hGreal := hG t ht
+  simp [Function.resToImagAxis, ResToImagAxis, ht] at hFreal hGreal
+  simp [Function.resToImagAxis, ResToImagAxis, ht, mul_im, hFreal, hGreal]
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  simp [ResToImagAxis, ht, hFreal, hGreal]
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 12]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+
+theorem ResToImagAxis.Real.hmul {F : ℍ → ℂ} {c : ℝ} (hF : ResToImagAxis.Real F) :
+    ResToImagAxis.Real (c • F) := by
+  intro t ht
+  have hFreal := hF t ht
+  simp [Function.resToImagAxis, ResToImagAxis, ht] at hFreal
+  simp [Function.resToImagAxis, ResToImagAxis, ht, hFreal]
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  simp [ResToImagAxis, ht, hFreal]
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 13]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+
+theorem ResToImagAxis.Pos.add {F G : ℍ → ℂ} (hF : ResToImagAxis.Pos F)
+    (hG : ResToImagAxis.Pos G) : ResToImagAxis.Pos (F + G) := by
+  rw [Pos]
+  refine ⟨Real.add hF.1 hG.1, ?_⟩
+  intro t ht
+  have hFpos := hF.2 t ht
+  have hGpos := hG.2 t ht
+  simp [Function.resToImagAxis, ResToImagAxis, ht] at hFpos hGpos
+  simp [Function.resToImagAxis, ResToImagAxis, ht, add_re, add_pos hFpos hGpos]
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  simp [ResToImagAxis, ht, add_pos hFpos hGpos]
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 14]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+  rw [Pos]
+  refine ⟨Real.mul hF.1 hG.1, ?_⟩
+  intro t ht
+  have hFreal := hF.1 t ht
+  have hGreal := hG.1 t ht
+  have hFpos := hF.2 t ht
+  have hGpos := hG.2 t ht
+  simp [Function.resToImagAxis, ResToImagAxis, ht] at hFreal hGreal
+  simp [Function.resToImagAxis, ResToImagAxis, ht] at hFpos hGpos
+  simp [Function.resToImagAxis, ResToImagAxis, ht, mul_re, hFreal, hGreal, mul_pos hFpos hGpos]
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  simp [ResToImagAxis, ht, hFreal, hGreal, mul_pos hFpos hGpos]
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 15]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+theorem ResToImagAxis.Pos.hmul {F : ℍ → ℂ} {c : ℝ} (hF : ResToImagAxis.Pos F)
+    (hc : 0 < c) : ResToImagAxis.Pos (fun z => c * F z) := by
+  rw [Pos]
+  refine ⟨Real.hmul hF.1, ?_⟩
+  intro t ht
+  have hFreal := hF.1 t ht
+  have hFpos := hF.2 t ht
+  simp [Function.resToImagAxis, ResToImagAxis, ht] at hFreal
+  simp [Function.resToImagAxis, ResToImagAxis, ht] at hFpos
+  simp [Function.resToImagAxis, ResToImagAxis, ht, mul_re, hFreal, mul_pos hc hFpos]
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  simp [ResToImagAxis, ht, mul_pos hc hFpos]
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 16]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+    (hF : ResToImagAxis.EventuallyPos F) (hG : ResToImagAxis.EventuallyPos G) :
+    ResToImagAxis.EventuallyPos (F + G) := by
+  rw [EventuallyPos]
+  refine ⟨ResToImagAxis.Real.add hF.1 hG.1, ?_⟩
+  obtain ⟨tF, hF0, hFpos⟩ := hF.2
+  obtain ⟨tG, hG0, hGpos⟩ := hG.2
+  let t₀ := max tF tG
+  use t₀
+  refine ⟨by positivity, ?_⟩
+  intro t ht
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  refine ⟨by positivity, fun t ht ↦ ?_⟩
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 17]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+  have htF₀ : tF ≤ t₀ := by grind
+  have htG₀ : tG ≤ t₀ := by grind
+  have htF : tF ≤ t := htF₀.trans ht
+  have htG : tG ≤ t := htG₀.trans ht
+  have hFpos_t := hFpos t htF
+  have hGpos_t := hGpos t htG
+  have htpos : 0 < t := by grind
+  simp [Function.resToImagAxis, ResToImagAxis, htpos] at hFpos_t hGpos_t
+  simp [ResToImagAxis, htpos]
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  simp only [Function.resToImagAxis_apply, ResToImagAxis, htpos] at hFpos_t hGpos_t
  simp only [Function.resToImagAxis_apply, ResToImagAxis, htpos]
```
```suggestion
  simp [Function.resToImagAxis, ResToImagAxis, htpos] at hFpos_t hGpos_t
  simp [ResToImagAxis, htpos]
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 18]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+    (hF : ResToImagAxis.EventuallyPos F) (hG : ResToImagAxis.EventuallyPos G) :
+    ResToImagAxis.EventuallyPos (F * G) := by
+  rw [EventuallyPos]
+  refine ⟨ResToImagAxis.Real.mul hF.1 hG.1, ?_⟩
+  obtain ⟨tF, hF0, hFpos⟩ := hF.2
+  obtain ⟨tG, hG0, hGpos⟩ := hG.2
+  let t₀ := max tF tG
+  use t₀
+  refine ⟨by positivity, ?_⟩
+  intro t ht
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  refine ⟨by positivity, fun t ht ↦ ?_⟩
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 19]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+  have htF₀ : tF ≤ t₀ := by grind
+  have htG₀ : tG ≤ t₀ := by grind
+  have htF : tF ≤ t := htF₀.trans ht
+  have htG : tG ≤ t := htG₀.trans ht
+  have hFpos_t := hFpos t htF
+  have hGpos_t := hGpos t htG
+  have htpos : 0 < t := by grind
+  simp [Function.resToImagAxis, ResToImagAxis, htpos] at hFpos_t hGpos_t
+  simp [Function.resToImagAxis, ResToImagAxis, htpos] at hFreal_t hGreal_t
+  simp [ResToImagAxis, htpos, hFreal_t, hGreal_t]
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  simp only [Function.resToImagAxis, ResToImagAxis, htpos] at hFpos_t hGpos_t
  simp only [Function.resToImagAxis, ResToImagAxis, htpos, ↓reduceDIte] at hFreal_t hGreal_t
  simp only [Function.resToImagAxis_apply, ResToImagAxis, htpos, ↓reduceDIte, Pi.mul_apply, mul_re,
    hFreal_t, hGreal_t, mul_zero, sub_zero]
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 20]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+
+theorem ResToImagAxis.EventuallyPos.hmul {F : ℍ → ℂ} {c : ℝ}
+    (hF : ResToImagAxis.EventuallyPos F) (hc : 0 < c) :
+    ResToImagAxis.EventuallyPos (fun z => c * F z) := by
+  rw [EventuallyPos]
+  refine ⟨ResToImagAxis.Real.hmul hF.1, ?_⟩
+  obtain ⟨t₀, hF0, hFpos⟩ := hF.2
+  use t₀
+  refine ⟨hF0, ?_⟩
+  intro t ht
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  refine ⟨hF0, fun t ht ↦ ?_⟩
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 21]
```diff
@@ -70,3 +70,128 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) (t : ℝ)
...
+  have htpos : 0 < t := by grind
+  have hFreal_t := hF.1 t htpos
+  have hFpos_t := hFpos t ht
+  simp [Function.resToImagAxis, ResToImagAxis, htpos] at hFreal_t
+  simp [Function.resToImagAxis, ResToImagAxis, htpos] at hFpos_t
+  simp [ResToImagAxis, htpos, hFreal_t]
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
  simp only [Function.resToImagAxis, ResToImagAxis, htpos] at hFreal_t
  simp only [Function.resToImagAxis, ResToImagAxis, htpos] at hFpos_t
  simp only [Function.resToImagAxis_apply, ResToImagAxis, htpos, ↓reduceDIte, mul_re, ofReal_re,
    ofReal_im, zero_mul, sub_zero]
```

**Review by pitmonticone — APPROVED** [review]
A bunch of minor improvements in the proofs.

Of course, I have tested all the commit suggestions locally so feel free to commit them directly if you like.
